US07994164B2
(2S,4S)-4-(4-Bromo-2-nitro-phenylamino)-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester
Heat a mixture of (2S,4S)-4-amino-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.14 mol, 31 g), 5-bromo-2-fluoronitrobenzene (0.29 mol, 64.0 g) and triethylamine (0.58 mol, 59 g) in ethyl acetate (320 mL) to reflux for 16 h. Cool the reaction mixture to room temperature, dilute with ethyl acetate, and wash with water and brine. Dry the organic layer over anhydrous sodium sulfate, filter, and concentrate to obtain the title compound (42 g, crude) as a thick, dark, orange oil.

reactant | (2S,4S)-4-amino-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.14 mol, 31 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)N)CO | C10H20N2O3
reactant | 5-bromo-2-fluoronitrobenzene | 0.29 mol, 64.0 g | BrC=1C=CC(=C(C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | triethylamine | 0.58 mol, 59 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 320 mL | C(C)(=O)OCC | C4H8O2
product | (2S,4S)-4-(4-Bromo-2-nitro-phenylamino)-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 42 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)NC1=C(C=C(C=C1)Br)[N+](=O)[O-])CO | C16H22BrN3O5
